US08404869B2
2-Methoxy-1,4-benzoquinone (30.0 g, 72 mM) and α-Methylstyrene (236 g, 2.0 M) were dissolved in 290 ml of isopropanol and refluxed for 30 hours. The reaction solution was subjected to vacuum distillation to recover isopropanol and α-Methylstyrene, and the reaction solution was concentrated. The resulting product was purified by chromatography to give to 1.38 g (5.47 mM) of 3-Methoxy-9-methyl-1,4-phenanthrenequinone.

reactant | 2-Methoxy-1,4-benzoquinone | 72 mM, 30.0 g | COC=1C(C=CC(C1)=O)=O | C7H6O3
reactant | α-Methylstyrene | 2.0 M, 236 g | CC(=C)C1=CC=CC=C1 | C9H10
solvent | isopropanol | 290 ml | C(C)(C)O | C3H8O
product | 3-Methoxy-9-methyl-1,4-phenanthrenequinone | 5.47 mM, 1.38 g | COC1=CC(C=2C=C(C3=CC=CC=C3C2C1=O)C)=O | C16H12O3
